US06441178B2
A solution of dl-threo-methylphenidate (1 g) in water (25 ml) and conc. HCl (5 ml) was heated under reflux for 3 h. The clear solution was evaporated to dryness, to give a dl-threo-ritalinic acid hydrochloride as a white solid.

reactant | dl-threo-methylphenidate | 1 g | COC(=O)[C@H]([C@H]1CCCCN1)C2=CC=CC=C2 | C14H19NO2
reactant | HCl | 5 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | dl-threo-ritalinic acid hydrochloride | C1CCN[C@@H](C1)[C@H](C2=CC=CC=C2)C(=O)O.Cl | InChI=1S/C13H17NO2.ClH/c15-13(16)12(10-6-2-1-3-7-10)11-8-4-5-9-14-11;/h1-3,6-7,11-12,14H,4-5,8-9H2,(H,15,16);1H/t11-,12-;/m0./s1
